US07091356B2
3-(4-Acetoamidophthalimido)-3-(3-cyclopentyloxy-4-methoxyphenyl)-N-hydroxypropionamide was prepared by the procedure of Example 1 from 3-(4-acetoamidophthalimido)-3-(3-cyclopentyloxy-4-methoxyphenyl)propanoic acid (1.78 g, 3.82 mmol), carbonyldiimidazole (0.74 g, 4.6 mmol) and hydroxylamine hydrochloride (0.38 g, 5.3 mmol) in tetrahydrofuran (12 mL) to afford 3-(4-acetoamidophthalimido)-3-(3-cyclopentyloxy-4-methoxyphenyl)-N-hydroxypropionamide as a white solid (1.1 g, 60% yield): mp, 177–180° C.; 1H NMR (DMSO-d6) δ 1.87–1.56 (m, 8H, C5H8), 2.12 (s, 3H, CH3), 3.11 (d, J=7.5 Hz, 2H, CH2), 3.70 (s, 3H, CH3), 4.72 (m, 1H, OCH), 5.64 (t, J=7.5 Hz, 1H, NCH), 6.88 (br s, 2H, Ar), 7.01 (br s, 1H, Ar), 7.81 (m, 2H, Ar), 8.17 (br s, 1H, OH), 8.78 (s, 1H, Ar), 10.56 (br s, 1H, NH); 13C NMR (DMSO-d6) δ 21.13, 21.81, 29.79, 31.89, 47.78, 53.15, 77.18, 109.68, 110.16, 111.75, 117.29, 120.85, 121.95, 122.40, 128.89, 131.50, 142.48, 144.33, 163.63, 165.20, 165.50, 166.92; Anal Calcd for C25H27N3O7+1.2 H2O: C, 59.68; H, 5.89; N, 8.35. Found: C, 59.69; H, 8.19; H2O, 6.91.

reactant | 3-(4-acetoamidophthalimido)-3-(3-cyclopentyloxy-4-methoxyphenyl)propanoic acid | 3.82 mmol, 1.78 g | C(C)(=O)NC=1C=C2C(C(=O)N(C2=O)C(CC(=O)O)C2=CC(=C(C=C2)OC)OC2CCCC2)=CC1 | C25H26N2O7
reactant | carbonyldiimidazole | 4.6 mmol, 0.74 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | hydroxylamine hydrochloride | 5.3 mmol, 0.38 g | Cl.NO
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
product | 3-(4-acetoamidophthalimido)-3-(3-cyclopentyloxy-4-methoxyphenyl)-N-hydroxypropionamide | 1.1 g, 60% yield | C(C)(=O)NC=1C=C2C(C(=O)N(C2=O)C(CC(=O)NO)C2=CC(=C(C=C2)OC)OC2CCCC2)=CC1 | C25H27N3O7
